US08124641B2
To a solution of ((R)-4-benzyloxycarbonylamino-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester (2.00 g, 5.60 mmol) in methanol (150 mL) was added sodium borohydride (1.61 g, 39.5 mmol). The mixture was stirred at 70° C. for 2 hours. After being cooled to room temperature, the reaction mixture was acidified to pH 7 with 5N hydrochloric acid, and then concentrated to remove methanol. The resulting mixture was extracted with dichloromethane (20 mL). After filtering out any insoluble materials from the organic layer, the filtrate was concentrated in vacuo to give (R)-[1-(2-hydroxy-ethyl)-4,5,6,7-tetrahydro-1H-indazol-4-yl]-carbamic acid benzyl ester (1.68 g, 95%) as a white solid. MS calcd. for C17H21N3O3 315, obsd. (ESI+) [(M+H)+] 316.

reactant | ((R)-4-benzyloxycarbonylamino-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester | 5.60 mmol, 2.00 g | C(C)OC(CN1N=CC=2[C@@H](CCCC12)NC(=O)OCC1=CC=CC=C1)=O | C19H23N3O4
reactant | sodium borohydride | 39.5 mmol, 1.61 g | [BH4-].[Na+]
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | methanol | 150 mL | CO | CH4O
product | (R)-[1-(2-hydroxy-ethyl)-4,5,6,7-tetrahydro-1H-indazol-4-yl]-carbamic acid benzyl ester | 1.68 g, 95% | C(C1=CC=CC=C1)OC(N[C@H]1C=2C=NN(C2CCC1)CCO)=O | C17H21N3O3
